US08895582B2
To a solution of (S)-1-(1-(tert-butyldimethylsilyloxy)-5-hydroxypentan-2-yl)-3-(2,3-difluorobenzyl)-1-methylurea-(tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentanoate (6.1 g, 14.66 mmol) in THF (20 mL) was added tetrazole (0.34 M in acetonitrile, 172.0 mL, 58.64 mmol) followed by addition of di-tert-butyl diisopropylphosphoramidite (9.3 mL, 29.32 mmol) at RT The resulting solution was stirred at RT for 2 h. To this mixture was added MCPBA (70%, 7.3 g, 29.32 mmol) at RT. The reaction mixture was stirred at RT overnight and quenched with Na2SO3. The mixture was filtered and the filtrate was concentrated and dissolved in EtOAc. The organic mixture was washed with NaOH (1 N×2), NaHCO3 (sat.), and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-di-tert-butyl 5-(tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentyl phosphate (4.1 g, 54%). LRMS (M+H+−2 tBu) m/z 491.2.

reactant | (S)-1-(1-(tert-butyldimethylsilyloxy)-5-hydroxypentan-2-yl)-3-(2,3-difluorobenzyl)-1-methylurea (tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentanoate | 14.66 mmol, 6.1 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCCO)N(C(=O)NCC1=C(C(=CC=C1)F)F)C.[Si](C)(C)(C(C)(C)C)OC(C(=O)[O-])CC(C)N(C(=O)NCC1=C(C(=CC=C1)F)F)C
reactant | tetrazole | 58.64 mmol, 0.34 M, 172.0 mL | N1N=NN=C1 | CH2N4
reactant | di-tert-butyl diisopropylphosphoramidite | 29.32 mmol, 9.3 mL | C(C)(C)N(P(OC(C)(C)C)OC(C)(C)C)C(C)C | C14H32NO2P
reactant | MCPBA | 29.32 mmol, 7.3 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-di-tert-butyl 5-(tert-butyldimethylsilyloxy)-4-(3-(2,3-difluorobenzyl)-1-methylureido)pentyl phosphate | 4.1 g, 54% | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCC[C@@H](CO[Si](C)(C)C(C)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)F)C | C28H51F2N2O6PSi
